US06884821B1
Using 4-methoxy-3-{2-[4-(trifluoromethyl)phenoxy]ethyl}benzaldehyde and 2,4-thiazolidine dione, 5-(4-methoxy-3-2-[4-(trifluoromethyl)phenoxy]ethylbenzyl)-1,3-thiazolane-2,4-dione was obtained in the same method as in Production Example 27c) and then in Example 29).

reactant | 4-methoxy-3-{2-[4-(trifluoromethyl)phenoxy]ethyl}benzaldehyde | COC1=C(C=C(C=O)C=C1)CCOC1=CC=C(C=C1)C(F)(F)F | C17H15F3O3
reactant | 2,4-thiazolidine dione | S1C(NC(C1)=O)=O | C3H3NO2S
product | 5-(4-methoxy-3-2-[4-(trifluoromethyl)phenoxy]ethylbenzyl)-1,3-thiazolane-2,4-dione | COC1=C(C=C(CC2C(NC(S2)=O)=O)C=C1)CCOC1=CC=C(C=C1)C(F)(F)F | C20H18F3NO4S
